US20010027196A1
2-Amino-4-furan-2-yl-6-(4-vinyl-benzylamino)-pyrimidine-5-carbonitrile
From 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile, 4-vinylbenzylamine hydrochloride and DBU in DME. ES-MS m/e (%): 318 (M+H+, 100).

reactant | 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)S(=O)C | C10H8N4O2S
reactant | 4-vinylbenzylamine hydrochloride | Cl.C(=C)C1=CC=C(CN)C=C1
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-furan-2-yl-6-(4-vinyl-benzylamino)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)NCC1=CC=C(C=C1)C=C | C18H15N5O
